US03991194
30.0 g. (0.124 mole) of methyl δ-iodovalerate and 42.5 g. (0.50 mole) of piperidine were dissolved in 250 ml. of benzene and heated at 60° C for 3 hours with stirring. A colorless solid began to appear shortly after the materials were combined. The solid was removed by suction filtration, and the benzene evaporated to give methyl δ-piperidinovalerate which distilled as 23.5 g. (95%) of colorless liquid, b.p. 122°-24° C (12.5 mm.).

reactant | methyl δ-iodovalerate | 0.124 mole | ICCCCC(=O)OC | C6H11IO2
reactant | piperidine | 0.50 mole | N1CCCCC1 | C5H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl δ-piperidinovalerate | N1(CCCCC1)CCCCC(=O)OC | C11H21NO2
